US04892961
1-Benzoyloxy-2-methyl-3-tetrahydropyranyloxypropane (460 mg; 1.65 mmol) was dissolved in methanol (10 ml), and 1M sodium hydroxide solution (3 ml) and water (10 ml) were added thereto, and the resultant mixture was stirred at room temperature for 5 hours. The reaction mixture was extracted with ethyl acetate. The extracts were washed with water and dried over anhydrous magnesium sulfte. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography using a mixture of ethyl acetate and benzene (1:4) to give 2-methyl-3-tetrahydropyranyloxy-1-propanol (254 mg; yield, 88%).

reactant | 1-Benzoyloxy-2-methyl-3-tetrahydropyranyloxypropane | 1.65 mmol, 460 mg | C(C1=CC=CC=C1)(=O)OCC(COC1OCCCC1)C | C16H22O4
reactant | sodium hydroxide | 1M, 3 ml | [OH-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 2-methyl-3-tetrahydropyranyloxy-1-propanol | 254 mg, 88% | CC(CO)COC1OCCCC1 | C9H18O3
